US05629293
b) Methyl(S)-2-(9-fluorenylmethyloxycarbonylamino)-3-methoxypropionate
To a solution of (2R,5S)-3,6-dimethoxy-5-(methoxymethyl)-2-isopropyl-2,5-dihydropyrazine (2.1 g, 9.2 mmol) in dioxane (18 ml ) 1M HCl (18.4 ml ), 18.4 mmol) was added and the mixture stirred at ambient temperature overnight. The volatile components were evaporated, the residue redissolved in dioxane and again evaporated. The crude residue was dissolved dioxane and FmocCl (5.71 g, 2.21 mmol) was added. After 2 minutes 1M NaHCO3 (44.2 ml, 44.2 mmol) was added. After 15 minutes the mixture was diluted with water (50 ml) and CHCl3 (100 ml). The layers were separated and the aqueous phase extracted with CHCl3 (2×75 ml). The combined organic layer was dried (Na2SO4), concentrated and purified by flash chromatography (silica gel; hexane: ethyl acetate 2:1).

reactant | (2R,5S)-3,6-dimethoxy-5-(methoxymethyl)-2-isopropyl-2,5-dihydropyrazine | 9.2 mmol, 2.1 g | COC=1[C@H](N=C([C@@H](N1)COC)OC)C(C)C | C11H20N2O3
reactant | FmocCl | 2.21 mmol, 5.71 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | NaHCO3 | 44.2 mmol, 1M, 44.2 ml | C(=O)(O)[O-].[Na+]
solvent | dioxane | 1M, 18 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl(S)-2-(9-fluorenylmethyloxycarbonylamino)-3-methoxypropionate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC)COC | C20H21NO5
